US07638650B2
To a mixture of nonylamine (7.5 g) and acetonitrile (10 mL) was added HFIB in several portions over a period of about 0.5 h until a gentle reflux of HFIB was observed which did not dissipate. A dry-ice condenser was used to obtain the gentle reflux of HFIB at 25° C. for 15 h. The reaction mixture was poured into water (150 mL) and the bottom layer separated, and washed with water to provide N-nonyl N-(2-trifluoromethyl-3,3,3-trifluoropropyl)amine (13.5 g): 1H NMR (CDCl3) 0.88 (t, J=7 Hz, 3H), 1.28 (m, 12H), 1.47 (quintet, J=7 Hz, 2H), 2.62 (t, J=7 Hz, 2H), 3.09 (m, 3H) ppm; 19F NMR (CDCl3) −67.0 (d, J=8 Hz) ppm; MS (m/e) 307 (M+, 2.5%), 292 (0.2%), 278 (0.3%), 264 (0.5%), 250 (0.8%), 236 (0.5%), 208 (2.6%),194 (100%),156 (5.9%).

reactant | nonylamine | 7.5 g | C(CCCCCCCC)N | C9H21N
reactant | acetonitrile | 10 mL | C(C)#N | C2H3N
reactant | HFIB | C=C(C(F)(F)F)C(F)(F)F | C4H2F6
solvent | water | 150 mL | O | H2O
product | N-nonyl N-(2-trifluoromethyl-3,3,3-trifluoropropyl)amine | 13.5 g | C(CCCCCCCC)NCC(C(F)(F)F)C(F)(F)F | C13H23F6N
